US04297349
Step B, 5,5-dimethyl-5-sila-n-pentadecanoic acid
To a solution of 25.0 g (91.7 mmol; 366.8 electron equivalents) of 5,5-dimethyl-5-sila-n-pentadecanol in 100 ml of pyridine, is added 21.5 g (136 mmol; 408 electron equivalents) of potassium permanganate in 320 ml of pyridine, at 20°-25° with stirring, and stirring is continued for 30 hr. A dark brown precipitate forms which is filtered off (leaving a colorless filtrate). The filter cake is thoroughly washed with methanol and ligroine. The washes and filtrate are combined and concentrated to near dryness. The residue is added to a mixture of water, ice, petroleum ether and dilute hydrochloric acid and the organic phase recovered. The aqueous phase is washed once with petroleum ether, which wash is then combined with the previously recovered organic phase, and the combined organic phases washed thrice with water, dried, and then concentrated to obtain crude title product, which is refined by distillation through a Vigreux column, b.p. 142°-132° at 0.145-0.115 mm Hg.

reactant | 5,5-dimethyl-5-sila-n-pentadecanol | 91.7 mmol, 25.0 g | C[Si](CCCCO)(CCCCCCCCCC)C | C16H36OSi
reactant | potassium permanganate | 136 mmol, 21.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 320 ml | N1=CC=CC=C1 | C5H5N
product | 5,5-dimethyl-5-sila-n-pentadecanoic acid | C[Si](CCCC(=O)O)(CCCCCCCCCC)C | C16H34O2Si
